US06455528B1
Synthesis of N-(4-(1-(4-(Pyrimidin-2-yl)piperazin-1-yl)ethyl)phenylmethyl)acetamide Dihydrochloride 1/2 Hydrate
By similar reaction and treatment to that in Example 1(5) using 1-(2-pyrimidyl) piperazine dihydrochloride instead of phenylpiperazine and N-(4-(1-chloroethyl)phenylmethyl)acetamide instead of N-(4-chloromethylphenylmethyl) acetamide, the title compound was obtained as a yellow amorphous solid.

reactant | 1-(2-pyrimidyl) piperazine dihydrochloride | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | N-(4-(1-chloroethyl)phenylmethyl)acetamide | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
product | N-(4-(1-(4-(Pyrimidin-2-yl)piperazin-1-yl)ethyl)phenylmethyl)acetamide Dihydrochloride | Cl.Cl.N1=C(N=CC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)CNC(C)=O | InChI=1S/C19H25N5O.2ClH/c1-15(18-6-4-17(5-7-18)14-22-16(2)25)23-10-12-24(13-11-23)19-20-8-3-9-21-19;;/h3-9,15H,10-14H2,1-2H3,(H,22,25);2*1H
